US06573286B1
Compound 51, (4R,5S)-2-(2,6-difluorophenyl)-5-methyl-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]-4,5-dihydro-1,3-oxazole
A 20 mL round bottom flask equipped with a magnetic stirrer, reflux condenser with nitrogen inlet and thermocouple was charged with (4R,5S)-4-(4-bromophenyl)-2-(2,6-difluorophenyl)-5-methyl-4,5-dihydro-1,3-oxazole (100 mg, 0.284 mmol), 4-(trifluoromethoxy)benzeneboronic acid (70 mg, 0.341 mmol), sodium carbonate (60 mg, 0.566 mmol), tetrakis(triphenylphosphine)palladium(O) (20 mg, 0.017 mmol) and ethyl alcohol (4 mL). The reaction mixture was heated to 78° C. for 7 hours and then cooled to 25° C. and stirred for 16 hours. 1N aq HCl (1 mL) and water (10 mL) were added, and the aqueous layer was extracted with diethyl ether (2×20 mL). The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure. Column chromatography (4:1 hexane:diethyl ether) afforded the product (38 mg, 31% yield) as a gummy solid: 1H NMR (CDCl3) δ 7.63-7.54 (m, 4H), 7.48-7.38 (m, 1H), 7.35 (d, 2H, J=8.4 Hz), 7.28 (d, 2H, J=8.4 Hz), 7.01 (t, 2H, J=8.1 Hz), 5.55 (d, 1H, J=9.9 Hz), 5.18 (m, 1H), 1.03 (d, 3H, J=6.6 Hz); EI/MS 433 m/e (M+); Chiracel OJ HPLC column shows 74% ee.

reactant | (4R,5S)-4-(4-bromophenyl)-2-(2,6-difluorophenyl)-5-methyl-4,5-dihydro-1,3-oxazole | 0.284 mmol, 100 mg | BrC1=CC=C(C=C1)[C@H]1N=C(O[C@H]1C)C1=C(C=CC=C1F)F | C16H12BrF2NO
reactant | 4-(trifluoromethoxy)benzeneboronic acid | 0.341 mmol, 70 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 0.566 mmol, 60 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1N, 1 mL | Cl | ClH
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.017 mmol, 20 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | water | 10 mL | O | H2O
solvent | ethyl alcohol | 4 mL | C(C)O | C2H6O
product | (4R,5S)-2-(2,6-difluorophenyl)-5-methyl-4-[4′-(trifluoromethoxy)-1,1′-biphenyl-4-yl]-4,5-dihydro-1,3-oxazole | 38 mg, 31% yield | FC1=C(C(=CC=C1)F)C=1O[C@H]([C@H](N1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F)C | C23H16F5NO2
